Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-1.34122178
[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.07052149169
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.2472528455
[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3][C:5](=[C:4])[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.009735717410001
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],2.6105425169
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-8.231728256810001
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.53988580474
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.41310958207
[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.97251487349
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:11][H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.9638352366500005
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.2991006272000005
[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.39041811366
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2]#[C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-5.84952817243
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],5.113580375350001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],3.93933795833
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.14493053697
[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-7.937977972280001
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:11][H:12],1.89565994173
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],4.53471876115
[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],0.6806718174199999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13],4.8280458828300015
[C:8]#[C:9][H:10].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-3.29272809306
[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.40716433804
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],4.36577780385
[O:1][C:2]([H:3])([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])=[O:6].[O:1](/[C:5]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[H:7],1.5915526772600002
[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.03389794699
[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][O:6][H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11],1.72865508637
